US07531663B2
0.974 g (10.2 mmol) of guanidine hydrochloride is added to a solution of 0.55 g (10.2 mmol) of sodium methoxide in 10 cm3 of methanol at a temperature in the region of 22° C. under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 2 hours, the solvent is evaporated off under reduced pressure (2.7 kPa). The residue, placed under an argon atmosphere, is taken up in 20 cm3 of a tetrahydrofuran/dichloromethane (1/1 by volume) mixture and then 0.7 g (2.04 mmol) of 3-chlorocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride, dissolved in 5 cm3 of the same tetrahydrofuran/dichloromethane mixture, is added thereto. After 15 hours at a temperature in the region of 22° C. and then heating at a temperature in the region of 60° C. with stirring for 1 hour, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is taken up in dichloromethane. The insoluble material is then filtered off and discarded, and the filtrate is concentrated under reduced pressure (2.7 kPa). The residue obtained is purified by flash chromatography [eluent: ethyl acetate/methanol (9/1 by volume)]. After concentrating the fractions under reduced pressure, 0.263 g of 3-guanidinocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride is obtained in the form of a white solid which decomposes at 235° C. Mass spectrum (EI): m/e 329 (M+·), m/e 271. IR spectrum (KBr): 3392, 1692, 1629, 1593, 1538, 1514, 1462, 1227, 1202 and 747 cm−1.

reactant | guanidine hydrochloride | 10.2 mmol, 0.974 g | Cl.NC(=N)N
reactant | sodium methoxide | 10.2 mmol, 0.55 g | C[O-].[Na+]
reactant | 3-chlorocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride | 2.04 mmol, 0.7 g | Cl.ClC(=O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1
solvent | methanol | 10 cm3 | CO | CH4O
solvent | tetrahydrofuran dichloromethane | 5 cm3 | O1CCCC1.ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-guanidinocarbonyl-1-(isoquinol-3-yl)-1H-indole hydrochloride | 0.263 g | Cl.N(C(=N)N)C(=O)C1=CN(C2=CC=CC=C12)C=1N=CC2=CC=CC=C2C1 | InChI=1S/C19H15N5O.ClH/c20-19(21)23-18(25)15-11-24(16-8-4-3-7-14(15)16)17-9-12-5-1-2-6-13(12)10-22-17;/h1-11H,(H4,20,21,23,25);1H
